US04713387
In 100 ml of methylene chloride was dissolved 10.5 g of (E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyl alcohol, and 17 ml of thionyl chloride was added dropwise to the resulting solution with ice-cooling, after which the resulting mixture was subjected to reaction under reflux for 30 minutes. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure, to obtain (E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyl chloride hydrochloride as the residue. This residue was dissolved in 40 ml of dimethyl sulfoxide.

reactant | (E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyl alcohol | 10.5 g | N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C/CO | C15H15NO
reactant | thionyl chloride | 17 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyl chloride hydrochloride | Cl.N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C/CCl | InChI=1S/C15H14ClN.ClH/c16-9-1-3-13-5-7-14(8-6-13)11-15-4-2-10-17-12-15;/h1-8,10,12H,9,11H2;1H/b3-1+;
